US08278343B2
Preparation 20: 4-(5-Fluoro-pyrimidin-2-yl)-phenol
The title compound was prepared according to the method described for Preparation 17 using 4-hydroxybenzene boronic acid and 2-chloro-5-fluoro-pyrimidine to afford the title compound as a white solid (575 mg, 42%)

reactant | 4-hydroxybenzene boronic acid | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | 2-chloro-5-fluoro-pyrimidine | ClC1=NC=C(C=N1)F | C4H2ClFN2
product | 4-(5-Fluoro-pyrimidin-2-yl)-phenol | 575 mg, 42% | FC=1C=NC(=NC1)C1=CC=C(C=C1)O | C10H7FN2O
